US07872026B2
In a manner similar to that of Example 2a, by reaction of 300 mg (0.6 mmol) of ethyl 4′-(4-aminobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate with 240 mg (6 mmol) of sodium hydroxide. 245 mg of 4′-(4-aminobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylic acid are obtained in the form of a white solid (m.p.=250° C., yield=86%).

reactant | ethyl 4′-(4-aminobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylate | 0.6 mmol, 300 mg | NCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C33H41NO3
reactant | sodium hydroxide | 6 mmol, 240 mg | [OH-].[Na+]
product | 4′-(4-aminobutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl)biphenyl-4-carboxylic acid | 245 mg | NCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C31H37NO3
